US04107308
2-tert-Butyl-4-imidazolemethanol
A mixture of 326 gm. of pivalimidic acid methyl ester hydrochloride and 193.5 gm. of 1,3-dihydroxyacetone in 2 liters of liquid ammonia are reacted as described in Example 1, giving the desired product, m.p. 212°-221° C.

reactant | pivalimidic acid methyl ester hydrochloride | Cl.COC(C(C)(C)C)=N
reactant | 1,3-dihydroxyacetone | OCC(=O)CO | C3H6O3
reactant | ammonia | N | H3N
product | 2-tert-Butyl-4-imidazolemethanol | C(C)(C)(C)C=1NC=C(N1)CO | C8H14N2O
